Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Heparin Agents / Coumadin / Percocet / Anesthesia Tray
 
Attending: ___
 
Chief Complaint:
Unresponsive at hemodialysis.
 
Major Surgical or Invasive Procedure:
Hemodialysis
ICU care

 
History of Present Illness:
Ms. ___ is a ___ y.o. F with type 1 DM, ESRD on HD, breast 
cancer, and pulmonary sarcoidosis who was at scheduled 
hemodialysis session when she was noted to become unresponsive 
for 8 minutes with normal vital signs and was bag-mask 
ventilated.  Per her daughter, the patient is usually on NC 
while getting HD, but when she saw her, the NC was off.  
Daughter stated that she tried to put it on her nose and that it 
looked like she was "gagging."  Her head then rolled backward 
and her eyes looked to the ceiling.  No history of sz disorder 
per daughter.  ___ if pt became incontinent, but daughter 
states that this unresponsiveness has happened in past with 
incontinence.  

In the ED, the patient followed simple commands and moving all 
extremities, but reportedly with diffusely tender abdominal 
exam.  Of note, she has a long history of non-responsive 
episodes that occur at HD sessions, most recently noted on 
___ hospitalization where she became transiently 
hypotensive to ___ on ___.  She did not have any more 
episodes of non-responsiveness during that hospitalization and 
remained normotensive on the medical floor.
.
In the ED, VS: 98.9  91/53  HR 96  RR 20  96% on NRB.
FAST reported negative.  CXR with cardiomegaly and mild 
pulmonary edema.  EKG unchanged compared to prior.  Given 
clindamycin x 1 and zosyn x 1.  1 L IVFs given.  CT head 
negative.  CT torso could not be completed as pt without any PIV 
and cannot run contrast through any central access or PICC.  EJ 
placed.  Per ED, pt with "labile" blood pressures.
.
On admission to the ICU, the patient was only slightly 
responsive to yelling with moaning and groaning.
 
Past Medical History:
1. End stage renal disease on HD ___  
2. Diabeted mellitus, Type 1  
3. Hypertension  
4. Coronary artery disease  
5. Gout  
6. Asthma  
7. Atrial fibrillation  
8. Sarcoidosis  
9. Pulmonary HTN  
10. Obstructive sleep apnea  
11. Ventral hernia  
12. HIT positive (per pt, but not seen in ___ records) 
13. Breast CA  
___. Multiple fistula revisions
15. s/p unilateral oophorectomy 
16. Septic arthritis (left knee)
17. Hypothyroidism
 
Social History:
___
Family History:
Brother: sarcoidosis. Mother/father with heart disease, MIs.
 
Physical Exam:
VITAL SIGNS: T: 96.3  BP: 108/54  HR: 80  RR: 14  O2Sat: 100% on 
NRB
.
GEN: somnolent, only moaning and groaning to yelling
HEENT: EOMI, PERRL, OP - unable to examine, no LAD, JVD could 
not be asessed due to anatomy
CHEST: CTAB anteriorly, no w/r/r
CV: irreg irreg, no m/r/g appreciated
ABD: large ventral midline hernia that is reducible, obese, TTP 
of epigastric area
EXT: no c/c/e
NEURO: moving all extremities, screaming in pain during blood 
draws, attempts at a-line, saying "you put me in hell", 
otherwise, incoherent
DERM: no rashees noted.
 
Pertinent Results:
CXR's:
___: In comparison with the study of ___, the opacifications 
consistent with pulmonary edema have worsened. Again, the 
possibility of supervening pneumonia cannot be excluded. Given 
that the patient is in hemodialysis, a post-procedure study 
should demonstrate some clearing of this process.  Repeat CXR on 
___ In comparison with study of ___, the degree of vascular 
congestion is decreased. Opacification persists at the left and 
possibly right base with obscuration of the left hemidiaphragm. 
This is consistent with pleural fluid and atelectasis, though 
supervening pneumonia can certainly not be excluded, especially 
in view of the clinical history. 
.
___: In comparison with the study of ___, there is again 
diffuse pulmonary opacifications consistent with pulmonary 
edema, though supervening pneumonia cannot be excluded. Little 
change from the previous study.  
.  
Echo ___:  Compared with the prior study (images reviewed) of 
___, probable vegetation (vs. torn chordae) is now seen on 
the tricuspid valve and the severity of tricuspid regurgitation 
has markedly increased. In addition, the right ventricle is now 
more dilated (was dilated on review of the prior study) with 
free wall hypyokinesis and the interatrial septum is now 
deviated towards the left atrium. The mitral leaflets and 
supporting structures are also more fibrotic.  
.  
EEG  ___: This is an abnormal portable routine EEG due to the 
slow  
background. These findings suggest widespread moderate 
encephalopathy. Medications, metabolic disturbances, and 
infections are among the most common causes. Of note is the 
multiple APCs. No lateralizing or seizure activity was seen.  
.  
Abd US:
___: 1. Cholelithiasis with mild thickening of the 
gallbladder wall, without evidence for pericholecystic fluid or 
biliary ductal dilatation. Findings could reflect sequela of 
chronic liver disease or third spacing from CHF or low albumin.  
2. Limited evaluation of the pancreas due to overlying bowel 
gas.  
.  
Repeat on ___: 1. Unchanged nonmobile gallstones in the 
gallbladder neck, without gallbladder distention or 
pericholecystic fluid. Mild thickening of gallbladder wall is 
also unchanged. 2. No intra- or extra-hepatic biliary ductal 
dilatation. 3. No ascites. 
.
CT torso ___:  
1. No etiology for patient's altered mental status identified.  
2. Interval development of small bilateral pleural effusions and 
extensive worsening of diffuse anasarca.  
3. Extensive bilateral nodular opacities predominantly within 
the upper lobes may be sequela of the patient's known 
sarcoidosis or represent an acute infectious process. Scattered 
ground-glass opacities, resulting in mosaic attenuation in the 
lung is likely related to underlying airtrapping or mild 
alveolar edema. Would consider repeat chest CT when patient is 
stable to better stage sarcoid if alteration in management will 
occur.  
4. Unchanged large ventral hernia without CT findings to suggest 
 
incarceration/strangulation although this is a clinical 
diagnosis.  
5. Cholelithiasis.  
.  
CT Head:
___ There is no hemorrhage, edema, mass effect, or 
shift of normally midline structures. There is mild diffuse 
atrophy which is most pronounced in the cerebellum. There are 
also calcifications of the basal ganglia bilaterally and 
calcification of the cavernous carotid arteries bilaterally. 
These findings are not changed since the prior study. There is 
partial opacification of the left mastoid air cells. The 
visualized paranasal sinuses are otherwise unremarkable, and the 
soft tissues are unremarkable. 
.
___: There is no evidence for hemorrhage, edema or mass. The 
ventricles and sulci are of normal size and configuration. The 
calvarium and soft tissues are unremarkable. The visualized 
ethmoid air cells and paranasal sinuses are normal. Again noted 
is partial opacification of the mastoid air cells, not 
significantly changed from prior studies when accounting for 
differences in technique. Incidentally noted are calcifications 
in the carotid arteries bilaterally, stable from prior studies.  
IMPRESSION: No acute intracranial process. 
.
UE US ___: Patent upper extremity surgical AV fistula, no 
thrombus or fluid collection is seen, greater than 50% stenosis 
at the level of the venous anastomosis. 
.  
Labs On Admission:
___ 06:40PM   WBC-8.5 RBC-2.91* HGB-7.1* HCT-26.8* MCV-92 
MCH-24.5* MCHC-26.7* RDW-18.9*
___ 06:40PM   NEUTS-82.9* LYMPHS-9.6* MONOS-5.4 EOS-1.4 
BASOS-0.7
___ 06:40PM   PLT COUNT-27*#
___ 06:40PM   ___ PTT-35.7* ___
___ 06:40PM   ___ 06:40PM   GLUCOSE-144* UREA N-19 CREAT-3.6*# SODIUM-139 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-29 ANION GAP-14
___ 06:44PM   GLUCOSE-137* LACTATE-1.8 NA+-138 K+-4.1 
CL--96* TCO2-32*
___ 06:40PM   ALT(SGPT)-25 AST(SGOT)-37 LD(LDH)-341* 
CK(CPK)-36 ALK PHOS-158* TOT BILI-1.6* DIR BILI-0.9* INDIR 
BIL-0.7
___ 06:40PM   LIPASE-360*
___ 06:40PM   cTropnT-0.10*
___ 06:40PM   CK-MB-NotDone
___ 06:40PM   CALCIUM-10.8* PHOSPHATE-3.1 MAGNESIUM-2.1
___ 06:40PM   HAPTOGLOB-45
___ 06:40PM   TSH-12*
___ 06:40PM   CORTISOL-14.5
.
Significant Labs:

Micro: 
___ 7:17 pm BLOOD CULTURE      Source: Line-PICC. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___: 
      Sensitivity testing per ___ ___ (___). 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ISOLATED FROM ONE 
SET ONLY. 
         FINAL SENSITIVITIES. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    ___ MORPHOLOGY. 
         FINAL SENSITIVITIES. 
      SENSITIVITIES: MIC expressed in MCG/ML
          STAPHYLOCOCCUS, COAGULASE NEGATIVE
                             |          |   
CLINDAMYCIN-----------   =>8 R      =>8 R
ERYTHROMYCIN----------   =>8 R      =>8 R
GENTAMICIN------------     2 S        8 I
LEVOFLOXACIN----------   =>8 R      =>8 R
OXACILLIN-------------     1 R      =>4 R
PENICILLIN G---------- =>0.5 R    =>0.5 R
RIFAMPIN-------------- <=0.5 S    <=0.5 S
TETRACYCLINE----------  =>16 R      <=1 S
VANCOMYCIN------------     2 S        2 S
.
All other blood cultures no growth to date
.
___ 10:24 pm STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 

                            **FINAL REPORT ___

   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      REPORTED BY PHONE TO ___ @  2349 ON ___. 
      CLOSTRIDIUM DIFFICILE. 
         FECES POSITIVE FOR C. DIFFICILE TOXIN BY EIA. 
           (Reference Range-Negative). 
         A positive result in a recently treated patient is of 
uncertain
         significance unless the patient is currently 
symptomatic
         (relapse). 

 
Brief Hospital Course:
___ y.o. F with type 1 DM, ESRD on HD, breast cancer, and 
pulmonary sarcoidosis who was at scheduled hemodialysis session 
when she was noted to become unresponsive for 8 minutes with 
normal vital signs.
.
# Unresponsiveness/Altered Mental Status: Occurred for 8 minute 
duration at HD with normal VS.  Per recent discharge summary, pt 
has history of unresponsive episodes that occur frequently at 
HD.  Considered seizure disorder, hypoglycemia, hypercarbia, 
hypotension, acute cardiac event, acute PE, all ruled out.  
Hypercalcemia present, likely chronic.  CT head negative.  EKG 
with no acute changes.  CE x 3 negative, at baseline chronically 
elevated from ESRD.  Monitored on telemetry.  EEG showed slowing 
consistent with toxic encephalopathy not seizure disorder.  
Obtained random cortisol as pt on chronic steroids and unsure if 
she abruptly discontinued, within normal limits.  TSH mildly 
elevated, most likely not contributing.  Monitored ___ BG, 
labile, episodes of hypoglycemia, d/ced NPH dose and controlled 
on sliding scale.  ABG in the unit ruled out hypercarbia.  
Second episode of change in mental status on ___, repeat ABG, 
no hypercarbia.  Electrolytes wnl.  Repeated CT scan showed no 
acute change.  Urine cultures negative.  Blood cultures only one 
bottle out of many positive for coag negative staph.  Most 
likely mixed etiology of delirium secondary to infection with c. 
diff and hypoxia from OSA, pulmonary edema (volume overload) and 
baseline pulmonary sarcoidosis.  Held all sedating medications.  
Encouraged CPAP machine at night and during the day with 
napping.  Treated infection.  Patient was back to baseline, 
alert, oriented, and appropriate prior to discharge.
.
#  Respiratory Distress:  seems to be resolved.  Patient 
developed new O2 requirement, however saturations in the high 
90's on 1L NC, wearing CPAP at night, seems to have helped 
tremendously.  Patient trasnfered to the MICU on ___ after 
concern for respiratory distress and inability to get a pleth so 
unable to assess oxygenation.  ABG demonstrated adequate 
oxygenation with PAO2 of 255 on Non-rebreather.  Her chest x ray 
showed pulmonary edema.  She was titrated to 6LNC and a blood 
gas revealed a PAO2 of 68.  She was dialyzed and her CXR showed 
improved pulmonary edema.  There was initial concern for 
pneumonia given her WBC and cough, however, the improvement of 
her CXR after dialysis argued against pneumonia.  She was 
titrated to 3LNC after dialysis.  She had ongoing delerium while 
in the intensive care unit. She was subsequently found to have 
C. diff so vanco/zosyn for pneumonia were stopped and patient 
was started on flagyl.  There was concern for PE, given the 
improvement of her oxygenation with dialysis, a workup for PE 
was not pursued.
.
# Tricuspid valve vegetation: Found incidentally on echo while 
working up for unresponsive episode.  Cardiology on board, 
unclear if this is a new vegetation or old, however by 
appearance, not likely to be new vegetation, however not 
certain.  Surveillance blood cultures performed daily, as above 
only one positive bottle out of many.  ID consulted, unlikely to 
be truly infected, held antibiotics, until second episode of 
unresponsiveness on ___ and restarted vancomycin and zosyn 
empirically.  Patient never mounted a fever or leukocytosis. Got 
daily EKG's to monitor for conduction defects, none noted.  TEE 
considered once patient was stable on the floor after second 
MICU transfer, however after much discussion with Cardiology, 
the tricuspid valve is not better visualized with TEE compared 
to TTE, therefore differed TEE.  Also, likelihood that patient 
is actively infected is very low. 
.
# Hypotension: resolved, not documented.  Had drop in pressure 
during dialysis on ___.  Held antihypertensive medications 
(initally admitted on quinapril, but changed to lisinopril).  
Possible that dialysis took too much fluid off.  Renal has made 
adjustments in rates during HD, and patient tolerated HD better 
prior to discharge.  Cortisol was wnl on random check but ___ 
stim not done and pt is on 5 mg prednisone. Continued to hold 
other antihypertensives.  Will not restart antihypertensives at 
this time.  Had to be very careful with fluid boluses, and only 
gave when absolutely necessary as patient has tendency to become 
overloaded easily.  
Will have to readdress in the future with patient's primary care 
physician.  
.  
# C. Diff colitis:  Toxin positive on ___.  Started Flagyl 
500mg BID PO on ___, switched to Flagyl 500mg TID IV as 
patient was refusing PO on ___.  Plan to continue from first 
day free of antibiotics, ___, for 14 days, with end date 
being ___ of PO flagyl.  Can switch to IV flagyl if patient 
refuses or is inconsistent about taking.  
.
# GIB: Patient had documented melena on admission to the FICU.  
Had decrease in Hct to low 20's.  GI consulted, family refused 
further workup.  Once sent to the floor, no more documented 
melena or drop in Hct.  Monitored Hct and guaiced all stools 
while in patient with no further evidence of GI bleed.       
.  
# ESRD on HD: patient getting HD on M, W, F at rehab facility.  
Maintained HD on regular schedule while inpatient with 
adjustments in rate and frequency.  Currently on T, Th, ___ 
schedule.  Patient is due for HD on ___ this week.  Continued 
sevelamer and epo at dialysis.  
.  
# Hypercalcemia: unclear etiology, but most likely primary 
hyperparathyroidism as patient's PTH was abnormally high for the 
level of calcium.  Other etiologies included breast ca, 
sarcoidosis, calcium supplements, or immobility.  Unable to give 
patient fluids as she does not make urine.  Adjusted at 
dialysis.  
.  
# DM:  Pt was getting half dose of NPH, 5 units, however she had 
hypoglycemia during admission, held NPH.  Patient maintained BG 
less than 200 on sliding scale insulin only.  Did not feel it 
necessary to restart standing NPH.  Monitored ___ BG.  Continued 
___ diet.  Will send patient out with understanding to just 
monitor ___ BG and adjust with SS insulin only for now, and 
readdress in the future with PCP.
.  
# Elevated LFT's, Amylase and Lipase, and direct bilirubinemia:  
Chronically elevated for unclear reason.  Patient has had 
elevated amylase and lipase since ___ but for brief time lipase 
normalized. Abd u/s completed showed cholelithiasis and gb wall 
thickening but no biliary ductal dilitationdid not visualize the 
pancreas well.  Repeated Abd US with no evidence of obstruction. 
 This could have been due to volume overload and congestion.  
Also, anastrazole can cause elevated transaminases and alk phos. 
 Triglycerides not elevated.  Trended amylase/lipase and LFT's, 
stayed relatively stable througout hospitalization.  If patient 
develops abdominal pain in the future, would consider 
reevaluation with possible evaluation by GI medicine. 
.  
# RUE swelling: inconsistent.  No evidence of DVT in arm.  
Repeated RUE US with specific instructions to look at AV 
fistula, no documented area of thrombosis.  Swelling most likely 
secondary to fluid shifts and positioning.  Resolved prior to 
discharge.
.  
# Thrombocytopenia: unclear etiology. Seems to be chronic since 
___. H/O HIT per patient, not documented, heparin dependent 
antibodies negative. DIC labs negative.  Question of secondary 
to vancomycin in the past. Trended CBC while inpatient, no 
levels less than 20's, no spontaneous bleeding.  Held all 
heparin products.  Checked SPEP, UPEP with no specific 
abnormalities seen.  ___ need to see a Hematologist in the 
future. 
.  
# Anemia: resolved, had decreased Hct in the ICU down to 22, but 
has been stable.  Pt received 2 u prbcs in the ICU. Iron studies 
consistent with anemia of chronic disease.  B12 and folate were 
normal. Continued epo at dialysis.  Continued to guaic all 
stools and follow CBC.
.  
# Hypothyroidism: patient has history of hypothyroid, on 
synthroid.  TSH checked while in ICU, abnormal, but most likely 
sick euthyroid as T3 low, T4 normal, TSH elevated may be sign of 
recovery period.  Continued increased dose of synthroid at 
50mcg.  Will have patient follow up with primary care physician 
___ 6 weeks to recheck levels and adjust meds as necessary.   
.  
# Sarcoid: stable, CT scan that showed diffuse nodular 
opacities. Unclear if this was due to volume overload or 
sarcoid. Recommend repeat ct scan in future as an outpatient.  
.  
# Asthma: continued albuterol nebs prn.  
.  
# CAD: Unable to restart lisinopril or metoprolol as pt's blood 
pressure so labile.  Cardiology on board.  Initally wanted to 
add back ASA, however platelet level low, held for now.  These 
issues will have to be addressed as an outpatient.   
.  
# Breast cancer: continued home dose of anastrozole  
.  
# OSA: CPAP at night, encouraged to wear.  Used supplemental O2 
on nights when refused CPAP.  As above, patient feels much 
better when wears CPAP overnight. 
.  
# FEN: repleted lytes prn, cardiac/diabetic/renal diet  
.  
# PPx: no heparin given h/o HIT, pneumoboots, protonix, bowel 
regimen  
.  
# Access: picc in left arm, AV fistula in the right 
.  
# Code: full confirmed with HCP 
 
Medications on Admission:
Anastrozole 1 mg Tablet 
Albuterol Sulfate 2.5 mg/3 mL Solution for Nebulization
One (1) nebulizer Inhalation Q6H (every 6 hours) as needed.  
Prednisone 5 mg Tablet One (1) Tablet PO EVERY OTHER DAY 
Cholecalciferol (Vitamin D3) 400 unit Tablet One (1) 
Tablet PO DAILY (Daily).  
Levothyroxine 25 mcg Tablet One (1) Tablet PO DAILY 
Amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
Quinapril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for pain/fever.  
Amitriptyline 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
Docusate Sodium 50 mg/5 mL Liquid Sig: One (1) tablet PO BID (2 
times a day).  
Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a day).  

Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 hours) 
as needed for pain.  
Insulin NPH Human Recomb 100 unit/mL Cartridge Sig: Twelve (12) 
units Subcutaneous qAM.  
Insulin NPH Human Recomb 100 unit/mL Cartridge Sig: Ten (10) 
units Subcutaneous qPM.  
Insulin Lispro 100 unit/mL Cartridge Sig: as per sliding scale 
units  
 
Discharge Medications:
1. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q6H (every 6 hours) as 
needed for shortness of breath or wheezing.  
2. Prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Anastrozole 1 mg Tablet Sig: One (1) Tablet PO daily ().  
4. Sevelamer HCl 800 mg Tablet Sig: One (1) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
5. Amiodarone 200 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. Levothyroxine 50 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed.  
9. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
10. Insulin Lispro 100 unit/mL Solution Sig: One (1)  
Subcutaneous ASDIR (AS DIRECTED): Per sliding scale.  
11. Miconazole Nitrate 2 % Powder Sig: One (1) Appl Topical QID 
(4 times a day) as needed.  
12. Nystatin 100,000 unit/mL Suspension Sig: Five (5) ML PO QID 
(4 times a day) as needed.  
13. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO three 
times a day for 14 days: end date ___,
can give IV instead if patient refuses PO.  
14. Acetaminophen 650 mg Tablet Sig: One (1) Tablet PO every 
eight (8) hours as needed for pain.  
15. Sarna Anti-Itch 0.5-0.5 % Lotion Sig: One (1) layer Topical 
four times a day as needed for itching.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses:
Tricuspid Valve vegetation
Hypotension
End Stage Renal Disease on Hemodialysis
.
Secondary Diagnoses:
IDDM
Hypertension
Pulmonary sarcoidosis
obesity
Obstructive Sleep Apnea
pulmonary hypertension
breast cancer
hypothyroidism

 
Discharge Condition:
Stable.

 
Discharge Instructions:
You were admitted to ___ for evaulation of unresponsiveness 
during hemodialysis.  You were presumed to have had a drop in 
your blood pressure secondary to fluid being taken off quickly.  
During the workup, it was found that you have a growth on one of 
your heart valves.  We checked for signs of infection in your 
blood, but nothing made us think you had a true infection.
.
These medications were held during your hospitalization:  
Quinapril, Amitryptiline, Oxycodone, Vit D, lisinopril, please 
do not restart these medications when you are discharged, until 
discussing with your primary care physician.
.
NPH insulin was stopped because your blood sugars have been well 
controlled with only sliding scale.  Use only sliding scale for 
glucose control, until discussion with your primary care 
physician.
.
Levothyroxine was increased to 50mcg per day, continue at this 
dose.  
.
Nystatin was added for thrush, use as needed.
.
Flagyl was added for C. Diff colitis, please continue to take by 
mouth three times a day until ___. 
.
If you experience any change in your mental status, neurological 
symptoms, chest pain, shortness of breath or any other worrisome 
symptom please seek medical attention.  Please keep all your 
medical appointments.
 
Followup Instructions:
___